US03933500
40 grams (0.1 mol) of N-{α-(2,4-di-tert-amylphenoxy)acetyl} -m-aminoacetophenone (m.p.:135°C), obtained by the reaction between m-aminoacetophenone and α-(2,4-di-tert-amylphenoxy)acetyl chloride in pyridine, was dissolved in 200 ml of anhydrous ethyl ether (placed in a three-necked flask), and 0.5 g of anhydrous aluminum chloride powder was added to this solution followed by ice-cooling (about 0°-5°C) under stirring. 16 grams (0.1 mol) of bromine was added dropwise to this mixture. After the completion of the dropwise addition, the temperature was allowed to rise to room temperature (about 20°-35°C). Stirring was continued until the generation of hydrogen bromide stopped. Thus, white crystals were precipitated.

reactant | m-aminoacetophenone | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | α-(2,4-di-tert-amylphenoxy)acetyl chloride | C(C)(C)(CC)C1=C(OCC(=O)Cl)C=CC(=C1)C(C)(C)CC | C18H27ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-{α-(2,4-di-tert-amylphenoxy)acetyl} -m-aminoacetophenone | 0.1 mol, 40 grams | C(C)(C)(CC)C1=C(OCC(=O)NC=2C=C(C=CC2)C(C)=O)C=CC(=C1)C(C)(C)CC | C26H35NO3
